US08053457B2
(6-Chloro-1H-indol-2-yl)-((S)-3-dimethylamino-pyrrolidin-1-yl)methanone
The title compound is synthesized by condensation of 6-chloro-1H-indole-2-carboxylic acid and dimethyl-(S)-pyrrolidin-3-yl-amine analogously to the preparation of Example 2 as a colorless solid; ES-MS: M+=292.2; HPLC: AtRet=3.15 min.

reactant | 6-chloro-1H-indole-2-carboxylic acid | ClC1=CC=C2C=C(NC2=C1)C(=O)O | C9H6ClNO2
reactant | dimethyl-(S)-pyrrolidin-3-yl-amine | CN([C@@H]1CNCC1)C | C6H14N2
product | (6-Chloro-1H-indol-2-yl)-((S)-3-dimethylamino-pyrrolidin-1-yl)methanone | ClC1=CC=C2C=C(NC2=C1)C(=O)N1C[C@H](CC1)N(C)C | C15H18ClN3O
